US04267184
A. 2-Acetylthio-3-allyl-4,5-bis(4-chlorophenyl)pyrrole
A solution of 3.6 g (0.01 mole) of 2-allylthio-4,5-bis(4-chlorophenyl)pyrrole in 20 ml acetic anhydride was added dropwise to 20 ml quinoline preheated at 170°. The mixture was kept at 170° an additional 45 minutes, then cooled. Most of the acetic acid, acetic anhydride and quinoline were removed by distillation under reduced pressure. The residue was chromatographed on 125 g of Silic AR CC-7, eluting with toluene, to give, after recrystallization from hexane/methyl cyclohexane, 2.7 g of white product, m.p. 131°-2°.

reactant | 2-allylthio-4,5-bis(4-chlorophenyl)pyrrole | 0.01 mole, 3.6 g | C(C=C)SC=1NC(=C(C1)C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl | C19H15Cl2NS
reactant | quinoline | 20 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-Acetylthio-3-allyl-4,5-bis(4-chlorophenyl)pyrrole | C(C)(=O)SC=1NC(=C(C1CC=C)C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl | C21H17Cl2NOS
